US07041685B2
5-(3-Chloro-thiophen-2-yl)-2-(4-trifluoromethyl-phenyl)-oxazole
N-(2-(3-Chloro-thiophen-2-yl)-2-oxo-ethyl]-4-trifluoromethyl-benzamide: The title compound was prepared from 2-(3-chloro-thiophen-2-yl)-2-oxo-1-ethylamine hydrochloride and 4-trifluoromethyl-benzoyl chloride by a procedure similar to Example 98a as a white solid (0.044 g, 30%). 1H NMR (DMSO-d6): 9.06 (m, 1H), 7.99 (m, 3H), 7.77 (d, J=8.4 Hz, 2H), 7.20 (d, J=9.0 Hz, 1H), 4.73 (s, 2H).

reactant | N-(2-(3-Chloro-thiophen-2-yl)-2-oxo-ethyl]-4-trifluoromethyl-benzamide | ClC1=C(SC=C1)C(CNC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C14H9ClF3NO2S
reactant | 2-(3-chloro-thiophen-2-yl)-2-oxo-1-ethylamine hydrochloride | Cl.ClC1=C(SC=C1)C(CN)=O
reactant | 4-trifluoromethyl-benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
product | 5-(3-Chloro-thiophen-2-yl)-2-(4-trifluoromethyl-phenyl)-oxazole | ClC1=C(SC=C1)C1=CN=C(O1)C1=CC=C(C=C1)C(F)(F)F | C14H7ClF3NOS
